US08110580B2
7-Butyl-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine
Add 5-methyl-2H-pyrazol-3-ylamine (217 mg, 2.17 mmol), nonane-2,4-dione (339 mg, 2.39 mmol) and piperidine (1 drop) to ethanol (10 mL) and heat at 80° C. overnight. Cool to room temperature and concentrate to dryness. Purify by silica gel column chromatography (0-20% ethyl acetate in hexane) to obtain a mixture of two isomers (2 g).

reactant | 5-methyl-2H-pyrazol-3-ylamine | 2.17 mmol, 217 mg | CC=1C=C(NN1)N | C4H7N3
reactant | nonane-2,4-dione | 2.39 mmol, 339 mg | CC(CC(CCCCC)=O)=O | C9H16O2
catalyst | piperidine | 1 drop | N1CCCCC1 | C5H11N
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 7-Butyl-2,5-dimethyl-pyrazolo[1,5-a]pyrimidine | C(CCC)C1=CC(=NC=2N1N=C(C2)C)C | C12H17N3
